US07601714B2
N4-[(trans-4-aminocyclohexyl)methyl]-5-bromo-N2-[2-(trifluoromethoxy)benzyl]pyrimidine-2,4-diamine
(4-{[5-Bromo-2-(2-trifluoromethoxy-benzylamino)-pyrimidin-4-ylamino]-methyl}-cyclohexyl)-carbamic acid tert-butyl ester (75 mg, 0.13 mmol) was dissolved in CH2Cl2 (2 mL). To this solution was added TFA (2 mL) and the reaction was stirred at 25° C. for 1 h. The volatiles were removed in vacuo. The crude was redissolved in CH2Cl2 and poured into 10% aqueous NaHCO3. The aqueous phase was separated and extracted two more times with CH2Cl2. The organic layers were combined, dried (Na2SO4), decanted and concentrated. The crude was purified via flash chromatography (SiO2, 2-10% (NH4OH:CH3OH:CH2Cl2—CH2Cl2)) to afford 45 mg (73%) of the target compound, m/z 474.38 [M+1]+.

reactant | (4-{[5-Bromo-2-(2-trifluoromethoxy-benzylamino)-pyrimidin-4-ylamino]-methyl}-cyclohexyl)-carbamic acid tert-butyl ester | 0.13 mmol, 75 mg | C(C)(C)(C)OC(NC1CCC(CC1)CNC1=NC(=NC=C1Br)NCC1=C(C=CC=C1)OC(F)(F)F)=O | C24H31BrF3N5O3
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | N4-[(trans-4-aminocyclohexyl)methyl]-5-bromo-N2-[2-(trifluoromethoxy)benzyl]pyrimidine-2,4-diamine | 45 mg, 73% | N[C@@H]1CC[C@H](CC1)CNC1=NC(=NC=C1Br)NCC1=C(C=CC=C1)OC(F)(F)F | C19H23BrF3N5O
